US07566735B2
1-{4-[2-oxo-2-(1-piperidinyl)ethyl]phenyl}-3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole
The title compound was prepared from {4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}acetic acid and piperidine using a similar procedure to that described for Example 2, product further purified by mass directed auto-prep.

reactant | {4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}acetic acid | FC(C1=NN(C=2CCCCC12)C1=CC=C(C=C1)CC(=O)O)(F)F | C16H15F3N2O2
reactant | piperidine | N1CCCCC1 | C5H11N
product | 1-{4-[2-oxo-2-(1-piperidinyl)ethyl]phenyl}-3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole | O=C(CC1=CC=C(C=C1)N1N=C(C=2CCCCC12)C(F)(F)F)N1CCCCC1 | C21H24F3N3O
